US09085534B2
3-[(2,3-dihydro-1-benzofuran-2-ylmethyl)amino]pyridine-4-carboxylic acid
The title compound was prepared in 18% yield from (2,3-dihydro-1-benzofuran-2-yl)methylamine hydrochloride and 3-fluoroisonicotinic acid according to the procedure for the preparation of Example 5. 1H NMR (400 MHz, DMSO-d6): δ 13.41 (br s, 1H), 8.29 (s, 1H), 7.78 (d, 1H, J=5.0 Hz), 7.75 (br s, 1H), 7.48 (d, 1H, J=5.0 Hz), 7.15 (d, 1H, J=7.2 Hz), 7.01 (t, 1H, J=7.7 Hz), 6.75 (t, 1H, J=7.4 Hz), 6.67 (d, 1H, J=7.9 Hz), 4.95-4.99 (m, 1H), 3.24-3.64 (m, 3H), 2.88-2.95 (m, 1H). [M+H] calc'd for C15H14N2O3, 271; found 271.

reactant | (2,3-dihydro-1-benzofuran-2-yl)methylamine hydrochloride | Cl.O1C(CC2=C1C=CC=C2)CN
reactant | 3-fluoroisonicotinic acid | FC1=C(C(=O)O)C=CN=C1 | C6H4FNO2
product | 3-[(2,3-dihydro-1-benzofuran-2-ylmethyl)amino]pyridine-4-carboxylic acid | 18% yield | O1C(CC2=C1C=CC=C2)CNC=2C=NC=CC2C(=O)O | C15H14N2O3
